US07265120B2
A mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg) and N,N-dimethyl-1,2-ethanediamine (0.127 ml) in 1,2-dimethyl-2-imidazolidinone (0.3 ml) was heated at 120-125° C. for 50 hours. After addition of water (3 ml), the mixture was extracted with CHCl3, dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel [Chromatorex® NH] eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give a syrup. The syrup was crystallized from a mixture of acetone and n-hexane to give 6-(5-amino-6-{[2-(dimethylamino)ethyl]amino}-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (36 mg).

reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | N,N-dimethyl-1,2-ethanediamine | 0.127 ml | CN(CCN)C | C4H12N2
solvent | water | 3 ml | O | H2O
product | 6-(5-amino-6-{[2-(dimethylamino)ethyl]amino}-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 36 mg | NC=1N=C(C(=NC1NCCN(C)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C21H27N7O
